US04225612
(1R,cis)-2,2-dimethyl-3-(2-methyl-1,3-dioxolan-2-ylmethyl)-cyclopropanecarboxyic acid
To a solution of 0.8 g of methyl (1R,cis)-2,2-dimethyl-3-(2-methyl-1,3-dioxolan-2-ylmethyl)cyclopropanecarboxylate in 5 ml of methanol, was added 1.6 ml of a 10% aqueous sodium hydroxide solution. The mixture was heated at 51° C. for 16 hours. The resulting mixture was diluted with water, acidified to pH 3 with 1 N hydrochloric acid, extracted with diethyl ether, and the extract was dried over magnesium sulfate and stripped to give 0.45 g of the desired product as a clear oil.

reactant | methyl (1R,cis)-2,2-dimethyl-3-(2-methyl-1,3-dioxolan-2-ylmethyl)cyclopropanecarboxylate | 0.8 g | CC1([C@@H]([C@@H]1CC1(OCCO1)C)C(=O)OC)C | C12H20O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | (1R,cis)-2,2-dimethyl-3-(2-methyl-1,3-dioxolan-2-ylmethyl)-cyclopropanecarboxyic acid | 0.45 g | CC1([C@@H]([C@@H]1CC1(OCCO1)C)C(=O)O)C | C11H18O4
